US05750531
Synthesis of 5-methyl-6-ethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.40 ml, 3.6 mmol) was added to a mixture solution of 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.7 g, 2.4 mmol) and dimethylformamide(5 ml), 0.50 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 3.6 mmol, 0.40 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.4 mmol, 0.7 g | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-ethyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.50 g, Yield: 52.7% | Cl.CC=1C(=NC(=NC1CC)N(C)C1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C23H26N4.ClH/c1-4-21-17(2)22(27-15-14-18-10-8-9-11-19(18)16-27)25-23(24-21)26(3)20-12-6-5-7-13-20;/h5-13H,4,14-16H2,1-3H3;1H
